US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and benzo[b]thiophene-2-carbonyl chloride (0.59 g, 3.00 mmol) in MeCN (20 mL), was added DIPEA (1.05 mL, 6.00 mmol) at room temperature under nitrogen. After 1 h, the solvent was removed in vacuo and the residue was dissolved in EtOAc (100 mL). The organic layer was washed with dil. aq. HCl (2×150 mL), water (100 mL), dried (MgSO4) and then concentrated. The product was dried in vacuo to give benzo[b]thiophene-2-carboxylic acid[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.75 g, 56% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 7.03 min (96.23%); mp: 318-320° C.; 1H NMR (DMSO-d6) δ 1.96-2.17 (m, 1H, CHH), 2.54-2.68 (m, 2H, CHH, CHH), 2.78-3.00 (m, 1H, CHH), 4.68 (d, J=5.9 Hz, 2H, CH2), 5.15 (dd, J=5.4, 12.7 Hz, 1H, CH), 7.39-7.55 (m, 2H, Ar), 7.79-8.10 (m, 5H, Ar), 8.16 (s, 1H, Ar), 9.50 (t, J=5.9 Hz, 1H, NH), 11.13 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.99, 30.93, 42.64, 49.01, 122.07, 122.83, 123.63, 124.97, 125.25, 126.32, 129.93, 131.66, 133.54, 139.10, 139.27, 140.25, 147.13, 161.80, 166.96, 167.10, 169.82, 172.73; LCMS: MH=448; Anal Calcd for C23H17N3O5S: C, 61.74; H, 3.83; N, 9.39. Found: C, 61.59; H, 3.53; N, 9.29.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | benzo[b]thiophene-2-carbonyl chloride | 3.00 mmol, 0.59 g | S1C2=C(C=C1C(=O)Cl)C=CC=C2 | C9H5ClOS
reactant | DIPEA | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 20 mL | CC#N | C2H3N
product | benzo[b]thiophene-2-carboxylic acid[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.75 g, 56% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C1=CC2=C(S1)C=CC=C2)=O)=O | C23H17N3O5S
